US07576115B2
Synthesis of methyl 4-{[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}-hydrazino)carbonothioyl]amino}-2-nitrobenzoate
Dimethylformamide (1 ml) and conc. hydrochloric acid (1 drop) were added to 1-[5-(3,4-dichlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone (60 mg, 0.21 mmol) synthesized in Synthetic Example 1 and methyl 4-hydrazinocarbonothioylamino-2-nitrobenzoate (57 mg, 0.21 mmol) synthesized in Reference Synthetic Example 56, and the mixture was stirred at room temperature for 21 hours. Water was added, and the precipitated solid was filtered, purified with a silica gel column chromatography (n-hexane/ethyl acetate=1/1 then chloroform/methanol=95/5). The obtained solid was extracted with ethyl acetate, washed with a saturated ammonium chloride aqueous solution, saturated sodium chloride aqueous solution. The organic layer was concentrated to obtain the desired product as a pale yellow solid (104 mg, yield 92%).

reactant | Dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | 1-[5-(3,4-dichlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 0.21 mmol, 60 mg | ClC=1C=C(C=CC1Cl)C1=C(C(=NN1C)C(C)=O)O | C12H10Cl2N2O2
reactant | methyl 4-hydrazinocarbonothioylamino-2-nitrobenzoate | 0.21 mmol, 57 mg | N(N)C(=S)NC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H10N4O4S
catalyst | hydrochloric acid | 1 drop | Cl | ClH
solvent | Water | O | H2O
product | methyl 4-{[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}-hydrazino)carbonothioyl]amino}-2-nitrobenzoate | 104 mg, yield 92% | ClC=1C=C(C=CC1Cl)C1=C(C(=NN1C)C(C)=NNC(=S)NC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-])O | C21H18Cl2N6O5S
